US07569589B2
3-[(2-chloropyrimidin-4-yl)carbonyl]benzonitrile (3 g, 12.31 mmol) was dissolved in 90 mL dry methanol and cooled to 0 C. Sodium borohydride (Acros, 0.512 g, 13.54 mmol) was dissolved in 30 mL dry methanol and added slowly via syringe, and the reaction mixture stirred at 0 C for 100 min. Additional sodium borohydride (0.256 g, 6.77 mmol) was dissolved in 15 mL dry methanol and added via syringe. After 20 minutes the reaction mixture was diluted with methylene chloride and quenched with saturated sodium bicarbonate. The resulting mixture was partitioned between methylene chloride and saturated sodium bicarbonate. The aqueous portion was extracted with methylene chloride (3×), and the combined organic portion dried over sodium sulfate and concentrated in vacuo to give 3-[(2-chloropyrimidin-4-yl)(hydroxy)methyl]benzonitrile (2.9 g, 96%). LRMS m/z (M+H) Calcd: 246.7, found: 246.0.

reactant | 3-[(2-chloropyrimidin-4-yl)carbonyl]benzonitrile | 12.31 mmol, 3 g | ClC1=NC=CC(=N1)C(=O)C=1C=C(C#N)C=CC1 | C12H6ClN3O
reactant | Sodium borohydride | 13.54 mmol, 0.512 g | [BH4-].[Na+]
reactant | sodium borohydride | 6.77 mmol, 0.256 g | [BH4-].[Na+]
solvent | methanol | 90 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
solvent | methanol | 15 mL | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-[(2-chloropyrimidin-4-yl)(hydroxy)methyl]benzonitrile | 2.9 g, 96% | ClC1=NC=CC(=N1)C(C=1C=C(C#N)C=CC1)O | C12H8ClN3O
